US07700641B2
Synthesis of 1′-({5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 3-chloromethyl-5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazole to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (44%): 1H NMR (300 MHz, CDCl3) δ 8.22 (d, 2H), 7.76 (d, 2H), 7.30-7.18 (m, 2H), 7.06 (t, 1H), 6.91 (d, 1H), 6.51 (s, 1H), 6.40 (s, 1H), 5.88 (s, 2H), 5.17 (ABq, 2H), 4.86 (ABq, 2H); MS (ES+) m/z 508.1 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 3-chloromethyl-5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F | C10H6ClF3N2O
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-({5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | FC(C1=CC=C(C=C1)C1=NC(=NO1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)(F)F | C26H16F3N3O5
